US06410585B1
5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[2-(2-pyridinyl)ethyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 2-(2-aminoethyl)pyridine (35 mg) according to Method B to give the title compound (56 mg). 1H-NMR (400 MHz, CD3OD) d 8.52 (d, J=4.6 Hz, 1H), 7.97 (m, 1H), 7.69 (d, J=2.0 Hz, 1H), 7.46-7.17 (m, 8H), 7.03 (d, J=8.6 Hz, 1H), 4.78 (s, 2H), 4.46 (m, 1H), 4.23 (dd, J=5.2 Hz, J=9.4 Hz, 1H), 3.41 (m, 1H), 2.74 (dd, J=8.9 Hz, J=13.6 Hz, 1H), 1.35 (s, 9H); HRMS m/z 634.2651 (calc. of monoisotopic mass for C33H38N4O9 gives 634.2639).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 2-(2-aminoethyl)pyridine | 35 mg | NCCC1=NC=CC=C1 | C7H10N2
product | 5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[2-(2-pyridinyl)ethyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid | 56 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCC1=NC=CC=C1)=O)CC1=CC=CC=C1 | C33H38N4O9
